US06090852
(b) 2-(Biphen-4-yloxy)ethylamine
To a solution of 2-([biphen-4-yloxy]ethyl)isoindoline-1,3-dione (1.5 g, 4.4 mmol) in dichloromethane (30 ml) was added methylarnine (33% solution in ethanol, 50 ml) and the solution was heated to reflux under an atmosphere of nitrogen for 2 hours. The mixture was cooled to ambient temperature, and the solvent was evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel (dichloromethane/methanol/aqueous ammonium solution 95:5:0 to 94:5:1 as eluent) to give the title compound as a colourless solid (505 mg).

reactant | 2-([biphen-4-yloxy]ethyl)isoindoline-1,3-dione | 4.4 mmol, 1.5 g | C1(=CC=C(C=C1)C1=CC=CC=C1)OCCN1C(C2=CC=CC=C2C1=O)=O | C22H17NO3
reactant | methylarnine | 50 ml | CN | CH5N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(Biphen-4-yloxy)ethylamine | 505 mg | C1(=CC=C(C=C1)C1=CC=CC=C1)OCCN | C14H15NO
